US04410354
Embodiment XXV--6-(3-Ethyl-(3,4-epoxybutyl))-3,4-dihydro-2H-pyran
To a stirred solution of 3.2 g of dihydropyran and 1.4 g of dry tetrahydrofuran at 0° C. was added dropwise 50 ml 2 M tert-butyl lithium. The reaction was allowed to warm to room temperature, then cooled to -10° to -20° C., and 10 g of 1,2-epoxy-2-(ethyl)-4-iodobutane and 0.7 g of hexamethylphosphoramide was added dropwise over 10 minutes. After stirring for 2 hours at -15° to -20° C., 6-8 ml of dry tetrahydrofuran was added. The reaction mixture was allowed to warm to room temperature, stirred for a total of 2 hours, 40-50 ml of hexane was added, and the mixture was washed with water and then with a saturated sodium chloride and sodium bisulfite mixture, dried and vacuum stripped to give 6 g of the desired material as an oil.

reactant | dihydropyran | 3.2 g | O1CCCC=C1 | C5H8O
reactant | tert-butyl lithium | 2 M, 50 ml | C(C)(C)(C)[Li]
reactant | 1,2-epoxy-2-(ethyl)-4-iodobutane | 10 g | O1CC1(CCI)CC | C6H11IO
solvent | hexane | 40-50 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 6-8 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 0.7 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 1.4 g | O1CCCC1 | C4H8O
product | 6-(3-Ethyl-(3,4-epoxybutyl))-3,4-dihydro-2H-pyran | 6 g | C(C)C1(CCC2=CCCCO2)CO1 | C11H18O2
